US05451607
To a solution of m-chlorothiophenoxyacetic acid (5.00 g, 24.7 mmol) in chlorobenzene (25 ml) was added phosphorous trichloride (2.90 ml) at room temperature, and the reaction was allowed to proceed with vigorous stirring at 100° C. for 2 hours. After cooling to room temperature, anhydrous aluminum chloride (3.70 g, 27.7 mmol) was added thereto, and the reaction was allowed to proceed at room temperature for 30 minutes, followed by stirring at 100° C. for 1.5 hours. After cooling to room temperature, the reaction mixture was poured into ice-water and separated with a separatory funnel. The aqueous layer was extracted with toluene (150 ml×2). The combined organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was subjected to chromatography on silica gel to give 6-chloro-2,3-dihydro-benzothiofuran-3-one (2.83 g, 15.3 mmol; yield, 62%), m.p., 123.8° C.

reactant | m-chlorothiophenoxyacetic acid | 24.7 mmol, 5.00 g | ClC=1C=C(SCC(=O)O)C=CC1 | C8H7ClO2S
reactant | phosphorous trichloride | 2.90 ml | P(Cl)(Cl)Cl | Cl3P
reactant | aluminum chloride | 27.7 mmol, 3.70 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chlorobenzene | 25 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 6-chloro-2,3-dihydro-benzothiofuran-3-one | 15.3 mmol, 2.83 g, 62% | ClC1=CC2=C(C(CS2)=O)C=C1 | C8H5ClOS
